US06417189B1
f. Synthesis of 3,3-dimethyl-1-[2-(6-phenylhexanoyl)-perhydropyridazinyl]pentane-1,2-dione
To a solution of 5-phenylvalaric acid (0.2 g, 1.1 mmol) in 3 ml CH2Cl2 was added triethylamine (0.15 ml, 1.1 mmol), followed by isobutyl chloroformate (0.15 g, 1.1 mmol) at 0° C. After stirring for 5 minutes, a solution of 3,3-dimethyl-1-perhydropyridazinylpentane-1,2-dione (0.212 g, 1 mmol) in 1 ml CH2Cl2 was added. The reaction was gradually warmed up to room temperature. The crude material was subject to silica gel purification to yield final product as clear oil (0.20 g, 55%). Rf=0.58 (33% EtOAc/hexane). 1H NMR (CDCl3, 400 MHz): δ 0.89 (t, 3H, J=7.5); 1.24 (s, 6H); 1.37 (m, 2H); 1.68 (m, 6H); 1.74 (m, 4H); 2.23 (m, 2H); 2.62 (t, 2H, J=7.60); 2.80 (m, 2H); 4.53 (m, 2H); 7.21 (m, 5H). Anal. Calcd. for C23H24N2O3: C, 71.47; H, 8.87; N, 7.25. Found: C, 71.54; H, 8.80; N, 7.32.

reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.1 mmol, 0.15 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3,3-dimethyl-1-perhydropyridazinylpentane-1,2-dione | 1 mmol, 0.212 g | CC(C(C(=O)C1NNCCC1)=O)(CC)C | C11H20N2O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 3,3-dimethyl-1-[2-(6-phenylhexanoyl)-perhydropyridazinyl]pentane-1,2-dione | 0.20 g, 55% | CC(C(C(=O)C1N(NCCC1)C(CCCCCC1=CC=CC=C1)=O)=O)(CC)C | C23H34N2O3
